US07777047B2
N-methyl-N-(2-{5-[(2-oxo-1-oxa-3,8-diazaspiro[4.5]dec-8-yl)methyl]-1,3-thiazol-2-yl}-1H-indol-7-yl)thiophene-2-sulfonamide
A mixture of N-{2-[5-(chloromethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide (150 mg), triethylamine (150 μL), 1-oxa-3,8-diazaspiro[4.5]decan-2-one (110 mg) and N,N-dimethylformamide (2 ml) was stirred at room temperature for 3 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography to give the title compound (82 mg, yield 43%) as colorless crystals from a fraction eluted with ethyl acetate. melting point 224° C.

reactant | N-{2-[5-(chloromethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 150 mg | ClCC1=CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C17H14ClN3O2S3
reactant | triethylamine | 150 μL | C(C)N(CC)CC | C6H15N
reactant | 1-oxa-3,8-diazaspiro[4.5]decan-2-one | 110 mg | O1C(NCC12CCNCC2)=O | C7H12N2O2
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N-methyl-N-(2-{5-[(2-oxo-1-oxa-3,8-diazaspiro[4.5]dec-8-yl)methyl]-1,3-thiazol-2-yl}-1H-indol-7-yl)thiophene-2-sulfonamide | 82 mg, yield 43% | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(=CN1)CN1CCC2(CNC(O2)=O)CC1 | C24H25N5O4S3
